US05521179
R=benzylaminocarbonyl: To a solution of 2-(3-amino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide (300 mg) in dry tetrahydrofuran (10 mL) was added benzyl isocyanate (86 mg). After 20 h triethyl amine (65 mg) and benzyl isocyanate (43 mg) were added. After another 18 h the reaction mixture was diluted with ethyl acetate and 10% hydrochloric acid. The organic portion was separated, washed with 10% hydrochloric acid and brine, and evaporated to give a crude oil. The reaction was found to be incomplete. To a solution of the recovered oil in dry tetrahydrofuran (6 mL) was added triethyl amine (80 mg) and benzyl isocyanate (86 mg). The solution was heated under reflux for 6 h and stirred 18 h. The reaction mixture was diluted with ethyl acetate; washed with saturated aqueous sodium bicarbonate, 10% hydrochloric acid and brine; dried; evaporated; and dried under vacuum to give a crude solid. Purification by chromatography, eluting with ethanol:ethyl acetate:dichloromethane (0.25:3:96.75 ), gave N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)-2-[2-oxo-6-phenyl-3-(3-benzylureido)-1,2-dihydro-1-pyridyl]acetamide (295 mg); TLC: Rf =0.20, ethanol:ethyl acetate:dichloromethane (0.5:4:95.5); MS: m/z=645(M+1).

reactant | 2-(3-amino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide | 300 mg | NC=1C(N(C(=CC1)C1=CC=CC=C1)CC(=O)NC(C(C(F)(F)F)O[Si](C)(C)C(C)(C)C)C(C)C)=O | C25H36F3N3O3Si
reactant | benzyl isocyanate | 86 mg | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | triethyl amine | 65 mg | C(C)N(CC)CC | C6H15N
reactant | benzyl isocyanate | 43 mg | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | triethyl amine | 80 mg | C(C)N(CC)CC | C6H15N
reactant | benzyl isocyanate | 86 mg | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)-2-[2-oxo-6-phenyl-3-(3-benzylureido)-1,2-dihydro-1-pyridyl]acetamide | 295 mg | [Si](C)(C)(C(C)(C)C)OC(C(C(C)C)NC(CN1C(C(=CC=C1C1=CC=CC=C1)NC(=O)NCC1=CC=CC=C1)=O)=O)C(F)(F)F | C33H43F3N4O4Si
